*==============================================
*N-EMOS 3T, P-EMOS 3T pinout: D,G,S
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*NMOS
*Default N-Channel MOSFET
.MODEL NMOS~ NMOS()

*PMOS
*Default P-Channel MOSFET
.MODEL PMOS~ PMOS()

*2N3796  MCE  7/6/95
*Assumes default L=100U W=100U
*25V  20mA 150 ohm
.MODEL 2N3796 NMOS (LEVEL=1 VTO=3 KP=960U GAMMA=3.72
+ PHI=.75 LAMBDA=4M RD=21 RS=21 IS=10F PB=.8 MJ=.46
+ CBD=13.2P CBS=15.9P CGSO=6N CGDO=5N CGBO=39N)

*2N3797  MCE  7/6/95
*Assumes default L=100U W=100U
*25V  20mA 150 ohm
.MODEL 2N3797 NMOS (LEVEL=1 VTO=3 KP=1.8M GAMMA=3.72
+ PHI=.75 LAMBDA=7.5M RD=21 RS=21 IS=10F PB=.8 MJ=.46
+ CBD=13.2P CBS=15.9P CGSO=6N CGDO=5N CGBO=39N)

*2N4351  MCE  7/6/95
*Assumes default L=100U W=100U
*25V  30mA 100 ohm
.MODEL 2N4351 NMOS (LEVEL=1 VTO=2.1 KP=1.12M GAMMA=2.6
+ PHI=.75 LAMBDA=2.49M RD=14 RS=14 IS=15F PB=.8 MJ=.46
+ CBD=7.95P CBS=9.54P CGSO=11.7N CGDO=9.75N CGBO=16N)
**********
================================
*IRF9510  MCE  4-2-96
*100V  4A  1.2 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9510  10 20 40 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .569
RS  30  3  31M
RG  20  2  37.5
CGS  2  3  182P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  231P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=208K ETA=2M VTO=-3 KP=.471)
.MODEL DCGD D (CJO=231P VJ=.6 M=.68)
.MODEL DSUB D (IS=16.6N N=1.5 RS=1.18 BV=100 CJO=327P VJ=.8 M=.42 TT=82N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9510
**********
*IRFI1010G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*55V 43A .0279ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI1010G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  12.3M
RS  40  3  1.7M
RG  20  2  3.49
CGS  2  3  1.24N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  1.57N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=115K THETA=58.1M ETA=2M VTO=3.1 KP=19.2)
.MODEL DCGD D (CJO=1.57N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=178N N=1.5 RS=8.78M BV=55 CJO=2.4N VJ=0.8 M=0.42 TT=436N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI510G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*100V 4A .267ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI510G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.126
RS  40  3  7.67M
RG  20  2  303
CGS  2  3  130P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  165P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=3.1 KP=1.62)
.MODEL DCGD D (CJO=165P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=18.7N N=1.5 RS=88.9M BV=100 CJO=251P VJ=0.8 M=0.42 TT=221N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI520G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*100V 7A .167ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI520G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  78.2M
RS  40  3  5.17M
RG  20  2  171
CGS  2  3  207P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  263P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=3.1 KP=2.59)
.MODEL DCGD D (CJO=263P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=29.9N N=1.5 RS=55.6M BV=100 CJO=402P VJ=0.8 M=0.42 TT=255N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI530G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*100V 10A .124ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI530G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  57.8M
RS  40  3  4.09M
RG  20  2  114
CGS  2  3  280P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  355P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=3.1 KP=3.49)
.MODEL DCGD D (CJO=355P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=40.3N N=1.5 RS=41.2M BV=100 CJO=542P VJ=0.8 M=0.42 TT=279N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI540G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*100V 17A .0706ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI540G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  32.5M
RS  40  3  2.76M
RG  20  2  43.5
CGS  2  3  490P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  622P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=3.1 KP=6.12)
.MODEL DCGD D (CJO=622P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=70.6N N=1.5 RS=23.5M BV=100 CJO=949P VJ=0.8 M=0.42 TT=330N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI1310G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*100V 21A .0571ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI1310G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  26.1M
RS  40  3  2.43M
RG  20  2  25.7
CGS  2  3  605P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  768P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=3.1 KP=7.57)
.MODEL DCGD D (CJO=768P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=87.2N N=1.5 RS=19M BV=100 CJO=1.17N VJ=0.8 M=0.42 TT=351N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI620G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*200V 4A .293ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI620G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.138
RS  40  3  8.32M
RG  20  2  338
CGS  2  3  118P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  150P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=3.1 KP=1.26)
.MODEL DCGD D (CJO=150P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=17N N=1.5 RS=0.11 BV=200 CJO=229P VJ=0.8 M=0.42 TT=215N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI630G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*200V 6A .203ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI630G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  95.6M
RS  40  3  6.08M
RG  20  2  219
CGS  2  3  170P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  216P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=3.1 KP=1.82)
.MODEL DCGD D (CJO=216P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=24.5N N=1.5 RS=76.3M BV=200 CJO=329P VJ=0.8 M=0.42 TT=240N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI640G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*200V 10A .122ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI640G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  57.2M
RS  40  3  4.06M
RG  20  2  112
CGS  2  3  282P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  359P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=3.1 KP=3.01)
.MODEL DCGD D (CJO=359P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=40.7N N=1.5 RS=45.9M BV=200 CJO=547P VJ=0.8 M=0.42 TT=280N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI614G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*250V 2A .571ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI614G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.27
RS  40  3  15.3M
RG  20  2  707
CGS  2  3  60.5P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  76.8P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=3.1 KP=0.624)
.MODEL DCGD D (CJO=76.8P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=8.72N N=1.5 RS=0.226 BV=250 CJO=117P VJ=0.8 M=0.42 TT=176N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI624G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*250V 3A .353ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI624G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.167
RS  40  3  9.82M
RG  20  2  418
CGS  2  3  98P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  124P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=3.1 KP=1.01)
.MODEL DCGD D (CJO=124P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=14.1N N=1.5 RS=0.14 BV=250 CJO=190P VJ=0.8 M=0.42 TT=204N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI634G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*250V 6A .214ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI634G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.101
RS  40  3  6.36M
RG  20  2  234
CGS  2  3  161P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  205P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=3.1 KP=1.66)
.MODEL DCGD D (CJO=205P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=23.2N N=1.5 RS=84.8M BV=250 CJO=313P VJ=0.8 M=0.42 TT=236N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI644G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*250V 8A .152ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI644G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  71.2M
RS  40  3  4.8M
RG  20  2  151
CGS  2  3  228P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  289P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=521K THETA=58.1M ETA=2M VTO=3.1 KP=2.35)
.MODEL DCGD D (CJO=289P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=32.8N N=1.5 RS=60.1M BV=250 CJO=441P VJ=0.8 M=0.42 TT=262N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI720G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*400V 3A .462ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI720G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.218
RS  40  3  12.5M
RG  20  2  561
CGS  2  3  74.9P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  95.1P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=833K THETA=58.1M ETA=2M VTO=3.1 KP=0.731)
.MODEL DCGD D (CJO=95.1P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=10.8N N=1.5 RS=0.212 BV=400 CJO=145P VJ=0.8 M=0.42 TT=188N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI730G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*400V 4A .324ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI730G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.153
RS  40  3  9.11M
RG  20  2  380
CGS  2  3  107P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  135P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=833K THETA=58.1M ETA=2M VTO=3.1 KP=1.04)
.MODEL DCGD D (CJO=135P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=15.4N N=1.5 RS=0.149 BV=400 CJO=207P VJ=0.8 M=0.42 TT=209N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI740G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*400V 5A .222ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI740G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.105
RS  40  3  6.56M
RG  20  2  244
CGS  2  3  156P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  198P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=833K THETA=58.1M ETA=2M VTO=3.1 KP=1.52)
.MODEL DCGD D (CJO=198P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=22.4N N=1.5 RS=0.102 BV=400 CJO=302P VJ=0.8 M=0.42 TT=234N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI734G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*450V 3A .353ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI734G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.167
RS  40  3  9.82M
RG  20  2  418
CGS  2  3  98P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  124P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=937K THETA=58.1M ETA=2M VTO=3.1 KP=0.947)
.MODEL DCGD D (CJO=124P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=14.1N N=1.5 RS=0.169 BV=450 CJO=190P VJ=0.8 M=0.42 TT=204N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI744G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*450V 5A .245ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI744G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.115
RS  40  3  7.12M
RG  20  2  274
CGS  2  3  141P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  179P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=937K THETA=58.1M ETA=2M VTO=3.1 KP=1.36)
.MODEL DCGD D (CJO=179P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=20.3N N=1.5 RS=0.117 BV=450 CJO=274P VJ=0.8 M=0.42 TT=227N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI820G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*500V 2A .571ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI820G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.27
RS  40  3  15.3M
RG  20  2  707
CGS  2  3  60.5P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  76.8P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=1.04MEG THETA=58.1M ETA=2M VTO=3.1 KP=0.58)
.MODEL DCGD D (CJO=76.8P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=8.72N N=1.5 RS=0.286 BV=500 CJO=117P VJ=0.8 M=0.42 TT=176N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI830G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*500V 3A .387ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI830G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.183
RS  40  3  10.7M
RG  20  2  463
CGS  2  3  89.3P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  113P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=1.04MEG THETA=58.1M ETA=2M VTO=3.1 KP=0.856)
.MODEL DCGD D (CJO=113P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=12.9N N=1.5 RS=0.194 BV=500 CJO=173P VJ=0.8 M=0.42 TT=198N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI840G MCE  12/11/97
*Ref: International Rectifier Product Digest '94
*500V 5A .261ohm Power MOSFET pkg:TO-220 2,3,1
*SYM=POWMOSN
.SUBCKT IRFI840G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.123
RS  40  3  7.52M
RG  20  2  296
CGS  2  3  133P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  168P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=1.04MEG THETA=58.1M ETA=2M VTO=3.1 KP=1.27)
.MODEL DCGD D (CJO=168P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=19.1N N=1.5 RS=0.13 BV=500 CJO=257P VJ=0.8 M=0.42 TT=223N)
.MODEL DLIM D (IS=100U)
.ENDS 

*================================
*PMOS
*================================
*IRF9510  MCE  4-2-96
*100V  4A  1.2 ohms HEXFET pkg:TO-220 2,1,3
.SUBCKT IRF9510  10 20 40 40
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  .569
RS  30  3  31M
RG  20  2  37.5
CGS  2  3  182P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  231P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 THETA=60M VMAX=208K ETA=2M VTO=-3 KP=.471)
.MODEL DCGD D (CJO=231P VJ=.6 M=.68)
.MODEL DSUB D (IS=16.6N N=1.5 RS=1.18 BV=100 CJO=327P VJ=.8 M=.42 TT=82N)
.MODEL DLIM D (IS=100U)
.ENDS IRF9510
**********
*IRFI9Z14G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*60V 5A .226ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9Z14G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.107
RS  40  3  6.66M
RG  20  2  250
CGS  2  3  153P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  194P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=-3.1 KP=2.28)
.MODEL DCGD D (CJO=194P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=22N N=1.5 RS=71.7M BV=60 CJO=296P VJ=0.8 M=0.42 TT=233N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9Z24G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*60V 8A .141ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9Z24G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  66.1M
RS  40  3  4.53M
RG  20  2  137
CGS  2  3  245P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  311P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=-3.1 KP=3.66)
.MODEL DCGD D (CJO=311P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=35.3N N=1.5 RS=44.7M BV=60 CJO=475P VJ=0.8 M=0.42 TT=268N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9Z34G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*60V 12A .1ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9Z34G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  46.5M
RS  40  3  3.5M
RG  20  2  82.5
CGS  2  3  346P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  439P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=-3.1 KP=5.16)
.MODEL DCGD D (CJO=439P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=49.8N N=1.5 RS=31.7M BV=60 CJO=670P VJ=0.8 M=0.42 TT=297N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9520G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*100V 5A .231ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9520G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.109
RS  40  3  6.77M
RG  20  2  256
CGS  2  3  150P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  190P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=-3.1 KP=1.87)
.MODEL DCGD D (CJO=190P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=21.6N N=1.5 RS=76.9M BV=100 CJO=290P VJ=0.8 M=0.42 TT=231N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9530G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*100V 8A .156ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9530G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  73M
RS  40  3  4.9M
RG  20  2  156
CGS  2  3  222P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  282P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=-3.1 KP=2.77)
.MODEL DCGD D (CJO=282P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=32N N=1.5 RS=51.9M BV=100 CJO=430P VJ=0.8 M=0.42 TT=260N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9540G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*100V 11A .109ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9540G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  50.8M
RS  40  3  3.73M
RG  20  2  94.5
CGS  2  3  317P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  402P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=208K THETA=58.1M ETA=2M VTO=-3.1 KP=3.96)
.MODEL DCGD D (CJO=402P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=45.7N N=1.5 RS=36.4M BV=100 CJO=614P VJ=0.8 M=0.42 TT=289N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9620G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*200V 3A .4ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9620G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.189
RS  40  3  11M
RG  20  2  480
CGS  2  3  86.5P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  110P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=-3.1 KP=0.923)
.MODEL DCGD D (CJO=110P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=12.5N N=1.5 RS=0.15 BV=200 CJO=168P VJ=0.8 M=0.42 TT=196N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9630G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*200V 4A .279ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9630G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  0.132
RS  40  3  7.98M
RG  20  2  320
CGS  2  3  124P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  157P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=-3.1 KP=1.32)
.MODEL DCGD D (CJO=157P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=17.8N N=1.5 RS=0.105 BV=200 CJO=240P VJ=0.8 M=0.42 TT=218N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*IRFI9640G MCE  12/12/97
*Ref: International Rectifier Product Digest '94
*200V 6A .197ohm Power MOSFET pkg:TO-220 2,3,1
.SUBCKT IRFI9640G 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  92.4M
RS  40  3  5.92M
RG  20  2  211
CGS  2  3  176P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  223P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=417K THETA=58.1M ETA=2M VTO=-3.1 KP=1.88)
.MODEL DCGD D (CJO=223P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=25.3N N=1.5 RS=73.8M BV=200 CJO=341P VJ=0.8 M=0.42 TT=243N)
.MODEL DLIM D (IS=100U)
.ENDS 
*********